US07671114B2
To a 2 L-reaction flask fitted with a mechanical stirrer, cooling bath containing salt/ice mixture, addition funnel, nitrogen inlet and thermocouple was added 2,2-bis[4-(but-2-enyloxy)phenyl]propane (DCE-BPA; prepared by the method described in Example 1a) (177 g; 0.53 moles) and dichloromethane (800 mL). The mixture was stirred to dissolve the DCE-BPA and cooled to 4° C. 3-chloroperoxybenzoic acid (276 g, 1.6 moles) was added portionwise to the cooled solution over 30 minutes while maintaining the reaction temperature below 5° C. After the addition was complete the mixture was stirred for a further 5 hours at 3-5° C. and then slowly allowed to warm to room temperature over 16 hours. The mixture was filtered and the filtrate washed with 10% sodium sulfite solution (2×400 mL) followed by saturated sodium bicarbonate solution (2×400 mL). The washed solution was dried over sodium sulfate, filtered and the solvent removed under reduced pressure to give the crude epoxy monomer as a viscous liquid. The liquid monomer was further treated on a wiped film evaporator, as described in Example 1(a), to yield 2,2-bis[4-(2,3-epoxybutoxy)phenyl]propane (ECE-BPA) (167.93 g; 87%) as a waxy solid. The structure of the monomer was confirmed by spectral analyses.

reactant | 2,2-bis[4-(but-2-enyloxy)phenyl]propane | C(C=CC)OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC=CC | C23H28O2
reactant | DCE BPA | ClCCCl.CC(C)(C=1C=CC(=CC1)O)C=2C=CC(=CC2)O
reactant | 3-chloroperoxybenzoic acid | 1.6 moles, 276 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | BPA | CC(C)(C=1C=CC(=CC1)O)C=2C=CC(=CC2)O | C15H16O2
solvent | dichloromethane | 800 mL | ClCCl | CH2Cl2
product | 2,2-bis[4-(2,3-epoxybutoxy)phenyl]propane | 167.93 g, 87% | O1C(COC2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)OCC2C(C)O2)C1C | C23H28O4
